US03972927
To a solution of 25 milliliters of diethylamine in 50 milliliters of dry benzene was added a solution of 2.0 grams of 3,5-di-t-butyl-4-hydroxybenzoyl chloride in benzene. The resulting mixture was refluxed for 1 hour, cooled, and poured into 100 milliliters of cold water. The excess amine was neutralized with dilute hydrochloric acid; the benzene layer was removed, washed with water, dried, and evaporated, leaving an oil. Addition of a small amount of petroleum ether gave crystals, which were filtered, and recrystallized from heptane, yielding 1.3 grams of N,N-diethyl-3,5-di-t-butyl-4-hydroxybenzamide; melting point 136°-137.5°C.

reactant | diethylamine | 25 milliliters | C(C)NCC | C4H11N
reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | 2.0 grams | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
reactant | water | 100 milliliters | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | N,N-diethyl-3,5-di-t-butyl-4-hydroxybenzamide | 1.3 grams | C(C)N(C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)CC | C19H31NO2
